Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abnormal Labs, s/p Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M with PMHx HTN, HLD, PUD, GERD presenting s/p multiple
falls and labwork showing a sodium of 124. 

Two weeks ago he tripped on the rug in his bathroom and fell
backwards. He denies any LOC and not sure if he hit his head, 
but
he had one episode of vomiting afterwards. He went to urgent 
care
where he had a CXR and abdominal US done which showed a hematoma
but no fractures. He fell again ___ when he tripped against a
grass partition on the sidewalk. Denies head strike or LOC. He
felt very weak after that fall. He denies any vision changes,
dizziness, lightheadedness but he does endorse some "equilibrium
issues" where he feels off balance intermittently while walking.
No numbness, tingling, CP, SOB, fevers, chills. Denies ever
having any similar to this happen before. No new medications.

- In the ED, initial vitals were:
98.0 80 155/84 18 97% RA

- Exam was notable for:
Gen: NAD, conversant
HEENT: EOMI, PERRL, MMM, NC/AT
Cardiac: RRR no r/m/g
Resp: CTA b/l no wheeze or rales
GI: soft, NTND, bruising noted in RUQ extenidng towards back,
nontender at bruise
Ext: No ___ edema, WWP
MSK: nontender to palpation along cervical/thoracic/lumbar spine
Neuro: CN II-XII grossly intact, sensation to light touch intact
in UE and ___ b/l, strenght ___ in UE and ___ b/l, normal gait

- Labs were notable for:
Na 124, K 3.9, Cl 86, bicarb 25, BUN 12, Cr 1.1 
WBC 4.8, hgb 10.1, plt 310 

UA with negative nitrites, leuks, Na< 20

- Studies were notable for:
No acute intracranial findings

- The patient was given N/A

On arrival to the floor, the patient confirms the story above.
Not a detailed historian but describes feeling occasional
unsteadiness which does not seem to correlate with any other
symptoms. No vertigo, hearing changes, tinnitus,
weakness/numbness, vision or speech changes. No chest pain, SOB,
palpitations. No fevers/chills, diarrhea, blood in stool,
dysuria. 

No vomiting since single episode after first fall though still
with mild pain near R flank where he hit himself during first
fall. Does describe a dry cough for months worse at night in the
setting of known GERD. 

 
Past Medical History:
HYPERTENSION                                                    
HYPERCHOLESTEROLEMIA                                            
ANEMIA                                                          
COLONIC ADENOMA                                                 
INGUINAL HERNIA 

 
Social History:
___
Family History:
5 siblings in good health. No DM, CAD, cancers, No family 
history
of VTE or bleeding. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.3 186 / 85 Lying 68 18 100 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: JVP not visible at 90 degrees
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, mild tenderness to
palpation near R flank where he hit himself during first fall. 
No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation. Gait
within normal limits. Romberg negative

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 98.4PO108 / 68 L ___
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM. 
Dry lips 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, mild tenderness to 
palpation near R flank where he hit himself during first fall 
with accompanying green ecchymosis. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. Cap refill <2s. Mild tenting. No rashes.
NEUROLOGIC: AOx3. Face symmetric. Moving all 4 limbs 
spontaneously. 
 
Pertinent Results:
PERTINENT LABS:
___ 12:35PM BLOOD WBC-4.8 RBC-3.04* Hgb-10.1* Hct-28.3* 
MCV-93 MCH-33.2* MCHC-35.7 RDW-12.0 RDWSD-41.3 Plt ___
___ 12:35PM BLOOD Glucose-101* UreaN-12 Creat-1.1 Na-124* 
K-3.9 Cl-86* HCO3-25 AnGap-13
___ 06:10AM BLOOD Glucose-94 UreaN-13 Creat-1.0 Na-133* 
K-4.4 Cl-94* HCO3-25 AnGap-14
___ 02:45PM BLOOD Na-132*
___ 06:11AM BLOOD Calcium-9.7 Phos-3.7 Mg-1.5*
___ 12:35PM BLOOD Osmolal-254*
___ 06:11AM BLOOD TSH-1.6
___ 06:11AM BLOOD Cortsol-15.9
___ 02:30PM URINE Color-Straw Appear-Hazy* Sp ___
___ 02:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 02:30PM URINE Hours-RANDOM Na-<20 K-11
___ 02:30PM URINE Osmolal-161

PERTINENT IMAGING/STUDIES:
___ ___
FINDINGS: 
There is no evidence of infarction, hemorrhage, edema, or mass.  
There is
prominence of the ventricles and sulci suggestive of age-related 
involutional
changes. There is no evidence of fracture.  The visualized 
portion of the paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
The visualized
portion of the orbits are unremarkable.
IMPRESSION: No acute intracranial findings
 
Brief Hospital Course:
___ y/o M with PMHx HTN, HLD, PUD, GERD presenting s/p multiple 
falls and hyponatremia with sodium of 124 after 1 month of high 
water intake (5 16 ounce cups daily) due to dry lips. 

#Hyponatremia:
Given Urine osms < plasma osms, presumed that urine was dilute 
secondary to minimal ADH levels. Low ADH appropriate given low 
Na levels. Low sodium levels in blood with low urine sodium 
likely secondary to excessive water intake for the last month. 
Most likely diagnosis is primary polydipsia. 2L fluid 
restriction was implemented and home thiazide was held.  Sodium 
was trended and on discharge was 133. TSH, cortisol normal. 

# Falls
# Unsteadiness
In the setting of hyponatremia this was originally concerning 
for CNS
pathology however CT head wnl. Presumed possibly mechanical with 
some contribution from hyponatremia. They don't appear 
correlated with position, exertion, or coughing/defecating and 
are not associated with neuro deficits or changes in level of 
consciousness. ___ was consulted and determined patient was safe 
for discharge without services. 

# Dry Cough
Patient also reporting chronic dry cough at night, most likely 
in
the setting of GERD but can consider holding Lisinopril as
outpatient if persistent. Not coughing on presentation. CXR ___
wnl. Continued GERD treatment. 

# Monocytosis
Follows with heme as below for chronic anemia. Unclear etiology
though isolated monocytosis can occur with recovery of bone
marrow after underproduction. Recommended he continue to follow 
with hem/onc outpatient

CHRONIC/STABLE ISSUES:
======================
#HTN:
Presented with BP 180s on arrival to floor after not taking meds
in ED. Holding home thiazide in the setting of hyponatremia with
unclear etiology. Continued home Lisinopril 40mg qd and 
increased home amlodipine to 10mg daily. Held home HCTZ as 
above. Held home atenolol because we considered switching to 
carvedilol (given its better effect on controlling blood 
pressure) if unable to adequately control blood pressure with 
just lisinopril and amlodipine. However, this was not necessary 
and heart rates also well controlled while in hospital so 
decided to continue holding atenolol at time of discharge. 
Consider initiating carvedilol if BP uncontrolled outpatient, as 
already maxed out on lisinopril and amlodipine. 

#HLD: continued home pravastatin QOD

#GERD: continued home omeprazole 20mg bid

# Chronic Normocytic Anemia: 
Baseline hgb of ___. Seen by Dr. ___ as an outpatient. He
underwent an EGD and colonoscopy in ___ at an outside facility
and had a small ulcer in the stomach which on repeat endoscopy
had resolved. Has had normal Fe studies, B12/folate, SPEP/UPEP.
He had basophilic stippling on his smear with normal lead 
levels.
Has cut back on is ETOH use. His myeloid sequencing panel did 
not
show any mutations detected. Continue heme follow up. 

TRANSITIONAL ISSUES:
[] LABS: Patient given rx to have serum electrolytes drawn on 
___ or ___. Please anticipate receiving these and review to 
ensure serum sodium continuing to remain > 130 at least. 
[] Discuss w patient importance of maintaining 2L fluid 
restriction daily. 
[] If hypertension uncontrolled, would suggest carvedilol as 
next agent. 
[] Would recommend against using HCTZ or other thiazide in the 
future as likely contributed to hyponatremia. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO BID 
2. Pravastatin 20 mg PO EVERY OTHER DAY 
3. lisinopril-hydrochlorothiazide 40-25 mg oral DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Atenolol 25 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
3.  Omeprazole 20 mg PO BID  
4.  Pravastatin 20 mg PO EVERY OTHER DAY  
5. HELD- Atenolol 25 mg PO DAILY  This medication was held. Do 
not restart Atenolol until your doctor tells you it is necessary 
to do so. 
6.Outpatient Lab Work
ICD-10: ___.1
Date: Before ___
Labs: Chem-10 
Send to: ___ MD
Fax:  ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary polydipsia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear,  
 It was a pleasure taking part in your care here at ___!  
 
Why was I admitted to the hospital?  
You had low sodium levels that may have been causing you to 
fall. If untreated, low sodium levels can be highly dangerous.

What was done for me while I was in the hospital?  
Many tests were completed to understand the cause of your low 
sodium. We discovered that the most likely cause is that it is 
too much water intake. Only have up to 2 liters of water a day. 
Try not to have more than that. Your thiazide medication was 
stopped and your sodium improved. 

What should I do when I leave the hospital?  
Please have labs drawn next week on ___ or ___. You 
will be given a prescription for the blood draw, and your sodium 
level will be faxed to your primary care doctor. This is very 
important to allow us to make sure your sodium doesn't get worse 
after you leave the hospital. 

Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set.  

Please monitor for new/or worsening symptoms, such as confusion, 
fatigue, weakness, nausea, vomiting, or more falls. If you do 
not feel like you are getting better or have any other concerns, 
please call your doctor to discuss or return to the emergency 
room.  

Please look at the changes we made to your medication list and 
follow this at home. 

Sincerely,  
 Your ___ Care Team  

 
Followup Instructions:
___